US04368069
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide (15 g) was added to a warm solution of 7.5 g of potassium hydroxide in 7.5 ml of water and 60 ml of ethanol. The mixture was stirred at room temperature overnight and then poured into dilute hydrochloric acid. The solid was filtered, washed with water and dried to afford 12.5 g of the desired product: m.p. 155°-157° C. IR (cm-1) 3000, 1720.

reactant | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 15 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O7S
reactant | potassium hydroxide | 7.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 7.5 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide | 12.5 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)O | C14H14N4O7S
